US06875769B2
5-(1-Ethyl-propoxy)-7-methyl-1-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-[1,8]naphthyridin-2-one
A mixture of 2-[4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-ylmethyl]-malonic acid dimethyl ester (100 mg, 0.219 mmol), 85% phosphoric acid (3 ml) and water (3 ml) was heated at reflux for 2 hours. The reaction mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous MgSO4, filtered and concentrated to dryness to give 91 mg of a clear oil. The oil was purified through silca gel column chromatography using 10% methanol (MeOH) in methylene chloride (CHCl2) as eluent to give a tan crystals, mp 138-140° C. 1H NMR (CDCl3) δ 6.93(s,2H), 6.31(s,1H), 4.21(m,1H), 2.93(m,2H), 2.76(m,2H), 2.31(s,3H), 2.19(s,3H), 1.99(s,6H), 1.71(m,4H), 0.96(t,6H) ppm.

reactant | 2-[4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-ylmethyl]-malonic acid dimethyl ester | 0.219 mmol, 100 mg | COC(C(C(=O)OC)CC=1C(=NC(=CC1NC(CC)CC)C)NC1=C(C=C(C=C1C)C)C)=O | C26H37N3O4
reactant | phosphoric acid | 3 ml | P(O)(O)(O)=O | H3O4P
reactant | water | O | H2O
reactant | water | 3 ml | O | H2O
product | 5-(1-Ethyl-propoxy)-7-methyl-1-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 91 mg | C(C)C(CC)OC1=C2CCC(N(C2=NC(=C1)C)C1=C(C=C(C=C1C)C)C)=O | C23H30N2O2
